US05112998
The reaction and workup procedures of Example 140 were repeated except that 120 mg of 20-(5,5-dimethyl-1,3-dioxan-2-yl)-3β-(tert-butyldimethylsilyl)oxy-1α-(methoxymethyl)oxy-7α-(methoxycarbonyl)oxypregn-5-ene was used in lieu of 100 mg of 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,3β,7α-tris(methoxycarbonyloxy)pregn-5-ene to give 65 mg of 20-(5,5-dimethyl-1,3-dioxan-2-yl)-3β-(tert-butyldimethylsilyl)oxy-1α-(methoxymethyl)oxypregn-5-en-7α-ol showing the following physical properties.

reactant | 20-(5,5-dimethyl-1,3-dioxan-2-yl)-3β-(tert-butyldimethylsilyl)oxy-1α-(methoxymethyl)oxy-7α-(methoxycarbonyl)oxypregn-5-ene | 120 mg | CC1(COC(OC1)C(C)[C@H]1CC[C@H]2[C@@H]3[C@@H](C=C4C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)OCOC)O[Si](C)(C)C(C)(C)C)OC(=O)OC)C | C37H64O8Si
reactant | 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,3β,7α-tris(methoxycarbonyloxy)pregn-5-ene | 100 mg | CC1(COC(OC1)C(C)[C@H]1CC[C@H]2[C@@H]3[C@@H](C=C4C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)OC(=O)OC)OC(=O)OC)OC(=O)OC)C | C33H50O11
product | 20-(5,5-dimethyl-1,3-dioxan-2-yl)-3β-(tert-butyldimethylsilyl)oxy-1α-(methoxymethyl)oxypregn-5-en-7α-ol | 65 mg | CC1(COC(OC1)C(C)[C@H]1CC[C@H]2[C@@H]3[C@@H](C=C4C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)OCOC)O[Si](C)(C)C(C)(C)C)O)C | C35H62O6Si
